### PR TITLE
[Merged by Bors] - feat(FieldTheory/Perfect): a field isomorphic to a perfect field is perfect

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that a field isomorphic to a perfect field is perfect.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Perfect.lean [hunk 1]
```diff
@@ -347,6 +347,11 @@ theorem Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L] [Alge
   obtain ⟨_, _, hi, h⟩ := hf.exists_dvd_monic_irreducible_of_isIntegral (K := K)
   exact (PerfectField.separable_of_irreducible hi).map |>.of_dvd h⟩
 
+theorem PerfectField.of_ringEquiv {K L : Type*} [Field K] [Field L] (h : K ≃+* L) [PerfectField K] :
+    PerfectField L := by
+  let := h.toRingHom.toAlgebra
+  exact Algebra.IsAlgebraic.perfectField (K := K)
```
Comment (plp127) [inline Mathlib/FieldTheory/Perfect.lean]: can you make `K` an explicit argument in `Algebra.IsAlgebraic.perfectField` since it will always have to be specified explicitly

File: Mathlib/FieldTheory/Perfect.lean [hunk 2]
```diff
@@ -342,11 +342,16 @@ instance Algebra.IsAlgebraic.isSeparable_of_perfectField {K L : Type*} [Field K]
...
-theorem Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L] [Algebra K L]
+theorem Algebra.IsAlgebraic.perfectField (K : Type*) {L : Type*} [Field K] [Field L] [Algebra K L]
     [Algebra.IsAlgebraic K L] [PerfectField K] : PerfectField L := ⟨fun {f} hf ↦ by
   obtain ⟨_, _, hi, h⟩ := hf.exists_dvd_monic_irreducible_of_isIntegral (K := K)
   exact (PerfectField.separable_of_irreducible hi).map |>.of_dvd h⟩
 
+theorem PerfectField.of_ringEquiv {K L : Type*} [Field K] [Field L] (h : K ≃+* L) [PerfectField K] :
+    PerfectField L := by
+  let := h.toRingHom.toAlgebra
+  exact Algebra.IsAlgebraic.perfectField K
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Perfect.lean]:
```suggestion
    PerfectField L :=
  let := h.toRingHom.toAlgebra
  Algebra.IsAlgebraic.perfectField K
```
Untested.

File: Mathlib/RingTheory/Finiteness/Basic.lean [hunk 3]
```diff
@@ -467,6 +467,9 @@ theorem of_surjective (f : A →+* B) (hf : Surjective f) : f.Finite :=
 lemma _root_.RingEquiv.finite (e : A ≃+* B) : e.toRingHom.Finite :=
   .of_surjective _ e.surjective
 
+instance (h : A ≃+* B) : letI := h.toRingHom.toAlgebra; Module.Finite A B :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Finiteness/Basic.lean:470]: I am maybe confused, but how can this be an instance? I mean, how can Lean find `h`?

Comment (plp127) [reply Mathlib/RingTheory/Finiteness/Basic.lean:470]: it would be found by unification since it's in the type, which is `@Module.Finite A B inst✝².toSemiring inst✝¹.toAddCommMonoid h.toRingHom.toAlgebra.toModule`

Comment (riccardobrasca) [reply Mathlib/RingTheory/Finiteness/Basic.lean:470]: Ah yes of course.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
